US07335660B2
e) (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile
A suspension of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol (300 g, 1.17 mol), copper(I) cyanide (209 g, 2.34 mol), and copper(I) iodide (33.3 g, 0.18 mol) in dry DMF (1.16 L), under an atmosphere of nitrogen, was heated to 140° C. After 8 h at this temperature, HPLC analysis of an aliquot indicated that the reaction was complete. The reaction mixture was cooled to room temperature and poured into an aqueous solution of ethylenediamine (3 L, v/v 3/1) then extracted into toluene. The combined organic layers were washed with water and concentrated in vacuo to give the crude title compound. This material is used without further purification in the subsequent step.

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | 1.17 mol, 300 g | BrC=1C=CC2=C(CCO[C@H]2CCO)C1 | C11H13BrO2
reactant | copper(I) cyanide | 2.34 mol, 209 g | [Cu]C#N
reactant | ethylenediamine | 3 L | C(CN)N | C2H8N2
solvent | DMF | 1.16 L | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.18 mol, 33.3 g | [Cu]I
product | (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile | OCC[C@@H]1OCCC2=C1C=CC(=C2)C#N | C12H13NO2
